US09023846B2
5-tert-Butyl-4-fluoro-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (61.4 mg, 0.269 mmol, prepared as described in the previous step) was dissolved in MeOH (1 mL) then 2 M NaOH (175 μL, 0.350 mmol) was added. The resulting mixture was stirred at room temperature for 18 h and the solvent was removed under reduced pressure. The resulting residue was dissolved in H2O (10 mL) and acidified to pH˜2 using 3 M HCl. The aqueous layer was extracted with DCM (3×5 mL), the combined organic extracts were dried over MgSO4 and filtered. The solvent was removed under reduced pressure to yield 5-tert-Butyl-4-fluoro-2-methyl-2H-pyrazole-3-carboxylic acid. 1H-NMR H-NMR (400 MHz, CDCl3) δ: 9.89 (br. s., 1H), 4.06 (d, J=1.0 Hz, 3H), 1.36 (s, 9H).

reactant | 5-tert-Butyl-4-fluoro-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1F)C(C)(C)C)C | C11H17FN2O2
reactant | NaOH | 0.350 mmol, 2 M, 175 μL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 5-tert-Butyl-4-fluoro-2-methyl-2H-pyrazole-3-carboxylic acid | C(C)(C)(C)C=1C(=C(N(N1)C)C(=O)O)F | C9H13FN2O2
